US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
6-(2-Methoxyphenyl)-2,2-dimethyl-4-(naphthalen-2-ylsulfanylmethyl)-1,2-dihydroquinoline 100 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 80 mg of potassium carbonate, and 42 mg of 2-naphthalenethiol reacted to give 8 mg of the title compound as an oil.

reactant | 6-(2-Methoxyphenyl)-2,2-dimethyl-4-(naphthalen-2-ylsulfanylmethyl)-1,2-dihydroquinoline | 100 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CSC1=CC2=CC=CC=C2C=C1 | C29H27NOS
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | potassium carbonate | 80 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-naphthalenethiol | 42 mg | C1=C(C=CC2=CC=CC=C12)S | C10H8S
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 8 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
